US04758369
Preparation of 11-(methylsulfonyl)undecanoic acid (a precursor)
Into a three-neck round-bottom flask fitted with an overhead mechanical stirrer, thermometer and addition funnel were added 12.3 g of 11-(methylthio)undecanoic acid and 53 mL of acetic acid. The mixture was warmed slightly to help all of the solid to dissolve in the acetic acid. At a temperature of approximately 30° C., the dropwise addition of 24 g of 30% hydrogen peroxide was started. After the addition was completed, the reaction mixture was stirred without heating for an hour. The mixture was then heated at slow reflux for an hour. The reaction mixture was cooled first to room temperature and then in an ice bath. Aqueous sodium sulfite (5%) was added to decompose all active oxygen present. The solid was filtered and washed several times with cold deionized water. The solid was then dried overnight on a watchglass. The product weighed about 7.7 g (55% of theoretical) based upon the weight of starting acid.

reactant | 11-(methylthio)undecanoic acid | 12.3 g | CSCCCCCCCCCCC(=O)O | C12H24O2S
reactant | hydrogen peroxide | 24 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | oxygen | O=O | O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 53 mL | C(C)(=O)O | C2H4O2
product | 11-(methylsulfonyl)undecanoic acid | CS(=O)(=O)CCCCCCCCCCC(=O)O | C12H24O4S
